US08455656B2
3-[1-(5-Fluoro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-propionic acid
To a stirred solution of 5-fluorooxindole (218 mg, 1.44 mmol) in anhydrous THF (10 ml) under nitrogen was added 1.0M LiHMDS/THF solution (2.9 ml, 2.9 mmol). After the mixture was stirred at room temperature for 10 minutes, 3-(1-Oxo-1,3-dihydro-isobenzofuran-5-yl)-propionic acid (100 mg, 0.48 mmol) was added. After the mixture was stirred at room temperature for 2 hours, 1 M sulfuric acid solution (10 ml) was added. The mixture was heated at 60° C. for 2 hours, and then poured into 150 ml of water. The resulting solid was filtered, rinsed with water, dried in vacuo to give the title compound as a yellow solid (96 mg, 59%).

reactant | 5-fluorooxindole | 1.44 mmol, 218 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | LiHMDS THF | 2.9 mmol, 1.0M, 2.9 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C.C1CCOC1
reactant | 3-(1-Oxo-1,3-dihydro-isobenzofuran-5-yl)-propionic acid | 0.48 mmol, 100 mg | O=C1OCC2=CC(=CC=C12)CCC(=O)O | C11H10O4
reactant | sulfuric acid | 1 M, 10 ml | S(O)(O)(=O)=O | H2O4S
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 150 ml | O | H2O
product | 3-[1-(5-Fluoro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-propionic acid | 96 mg, 59% | FC=1C=C2C(C(NC2=CC1)=O)=C1OCC2=CC(=CC=C12)CCC(=O)O | C19H14FNO4
